US09233982B2
Step 4: 2′-amino-1′-methyl-6,7-dihydro-5H-spiro[benzo[b]thiophene-4,4′-imidazol]-5′(1′H)-one
1′-Methyl-2′-(methylthio)-6,7-dihydro-5H-spiro[benzo[b]thiophene-4,4′-imidazol]-5′(1′H)-one (1.5 g, 5.63 mmol), ammonium iodide (4.89 g, 33.78 mmol) and 7 N ammonia in methanol (20 mL) were heated at 90° C. for 12 h. The solvent was then evaporated under reduced pressure and the residue was partitioned between water and dichloromethane. The dichloromethane extracts were combined, dried over magnesium sulphate and evaporated under reduced pressure to give an oil. This consisted of the title compound as the major component and its minor regioisomer in a 2:1 ratio. The oil was loaded onto a Biotage SNAP cartridge and eluted with dichloromethane-dichloromethane/7N ammonia in methanol (9:1). The appropriate fractions were combined and evaporated under reduced pressure to give 2′-amino-1′-methyl-6,7-dihydro-5H-spiro[benzo[b]thiophene-4,4′-imidazol]-5′(1′H)-one as a foam (800 mg, 60%).

reactant | 1′-Methyl-2′-(methylthio)-6,7-dihydro-5H-spiro[benzo[b]thiophene-4,4′-imidazol]-5′(1′H)-one | 5.63 mmol, 1.5 g | CN1C(=NC2(C1=O)CCCC=1SC=CC12)SC | C12H14N2OS2
reactant | ammonium iodide | 33.78 mmol, 4.89 g | [I-].[NH4+]
reactant | ammonia | 7 N | N | H3N
solvent | methanol | 20 mL | CO | CH4O
product | 2′-amino-1′-methyl-6,7-dihydro-5H-spiro[benzo[b]thiophene-4,4′-imidazol]-5′(1′H)-one | NC=1N(C(C2(N1)CCCC=1SC=CC12)=O)C | C11H13N3OS
